US09388173B2
Step 2: 1-amino-3-(3,4-dihydroisoquinolin-2(1H)-yl)propan-2-ol
A sealed vessel was charged with 2-(oxiran-2-ylmethyl)-1,2,3,4-tetrahydroisoquinoline (1.5 g, 7.9 mmol) and ammonium in ethanol (50 mL) was then added and the vessel sealed and heated at 80° C. for 2 h. After cooling to room temperature, solvents were evaporated to afford the desired product as a colorless oil (1.2 g, 73.7% yield). It was used in the next step without further purification. LCMS (m/z): 207.1 [M+H]+

reactant | 2-(oxiran-2-ylmethyl)-1,2,3,4-tetrahydroisoquinoline | 7.9 mmol, 1.5 g | O1C(C1)CN1CC2=CC=CC=C2CC1 | C12H15NO
reactant | ammonium | [NH4+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 1-amino-3-(3,4-dihydroisoquinolin-2(1H)-yl)propan-2-ol | 1.2 g, 73.7% yield | NCC(CN1CC2=CC=CC=C2CC1)O | C12H18N2O
